US07901793B2
Synthesis of 4,4,5,5-tetramethyl-2-(10-p-tolyl-anthracene-9-yl)-[1,3,2]-dioxaborolane (Intermediate A)
4.6 g (1 eq, 13.25 mmol) of 9-bromo-10-p-tolyl-anthracene was dissolved in 150 ml of THF in a 500 ml round-bottomed flask in Ar gas condition, and 6.36 ml (1.2 eq, 15.9 mmol) of 2.5M n-BuLi (in hexane) was added to the solution at −78° C. After stirring the solution at −78° C. for 1 hour, 3.52 ml (1.3 eq, 17.23 mmol) of 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane was added to the solution and stirred at room temperature for 2 hours. Next, 50 ml of water was added to the solution to terminate the reaction, and the organic phase of the solution was extracted using brine and methylene chloride. The extracted organic phase was dried using anhydrous magnesium sulfate and filtered to remove the solvent. The dried organic phase was dissolved in a small amount of toluene and subjected to column chromatography (silica and hexane) to remove impurities. Next, the polarity of the eluent solvent was increased to obtain 3.5 g (67%) of a white solid.

reactant | 9-bromo-10-p-tolyl-anthracene | 13.25 mmol, 4.6 g, 1 eq | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C | C21H15Br
reactant | n-BuLi | 15.9 mmol, 2.5M, 6.36 ml, 1.2 eq | [Li]CCCC
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 17.23 mmol, 3.52 ml, 1.3 eq | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | water | 50 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4,4,5,5-tetramethyl-2-(10-p-tolyl-anthracene-9-yl)-[1,3,2]-dioxaborolane | 3.5 g, 67% | CC1(OB(OC1(C)C)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C)C | C27H27BO2
